US07692005B2
5-(4-Nitro-benzoyl)-1,3-dihydro-indol-2-one (1.51 g, 5.28 mmol) was dissolved in MeOH (600 mL). 10% Pd/C (0.150 g) was added to the flask and then placed under vacuum to remove any O2(g). The reaction mixture was kept under reduced pressure for 5 min and was then charged with H2(g). This evacuation/H2(g) fill procedure was repeated twice. The reaction mixture changed from a cloudy grayish/black color to a translucent dark green/black color, signifying complete consumption of the starting material. As the desired ketone product was prone to over-reduction to the alcohol, stopping the reaction immediately upon complete consumption of the starting material limited the amount over-reduction that occurred. The reaction was allowed to run for 0.75-1.0 hours after which, the reaction mixture was filtered over celite and concentrated in vacuo resulting in a yellowish solid that contained the desired keto-aniline product plus ˜5% of the overreduced alcohol-aniline. The crude solid was purified by triturating with MeOH. The desired keto-aniline product, 5-(3-Amino-benzoyl)-1,3-dihydro-indol-2-one was soluble in MeOH and was filtered away from the insoluble over reduced alcohol by-product. In vacuo concentration of the methanolic filtrate provided pure 5-(3-Amino-benzoyl)-1,3-dihydro-indol-2-one in 72% (0.957 g, 3.80 mmol) yield.

reactant | 5-(4-Nitro-benzoyl)-1,3-dihydro-indol-2-one | 5.28 mmol, 1.51 g | [N+](=O)([O-])C1=CC=C(C(=O)C=2C=C3CC(NC3=CC2)=O)C=C1 | C15H10N2O4
reactant | keto-aniline | O=NC1=CC=CC=C1 | C6H5NO
solvent | MeOH | 600 mL | CO | CH4O
catalyst | Pd/C | 0.150 g | [Pd] | Pd
product | 5-(3-Amino-benzoyl)-1,3-dihydro-indol-2-one | NC=1C=C(C(=O)C=2C=C3CC(NC3=CC2)=O)C=CC1 | C15H12N2O2
